US06995144B2
(E)-3-[4-[2-[2-(Cyclohexylmethyloxy)phenyl]vinyl]piperidino]methyl-2-methoxypyrazine
After dissolving 131 mg of 3-methoxypyrazine-2-carboxaldehyde and 236 mg of (E)-4-[2-[2-(cyclohexylmethyloxy)phenyl]vinyl]piperidine in 3 ml of 1,2-dichloroethane, 0.07 ml of acetic acid and 276 mg of sodium triacetoxyborohydride were added and the mixture was stirred overnight at room temperature. Aqueous sodium carbonate solution was added to the reaction mixture and extraction was performed with ethyl acetate. The extract was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (255 mg, 77% yield).

reactant | 3-methoxypyrazine-2-carboxaldehyde | 131 mg | COC=1C(=NC=CN1)C=O | C6H6N2O2
reactant | (E)-4-[2-[2-(cyclohexylmethyloxy)phenyl]vinyl]piperidine | 236 mg | C1(CCCCC1)COC1=C(C=CC=C1)/C=C/C1CCNCC1 | C20H29NO
reactant | sodium triacetoxyborohydride | 276 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.07 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-3-[4-[2-[2-(Cyclohexylmethyloxy)phenyl]vinyl]piperidino]methyl-2-methoxypyrazine | 255 mg, 77% yield | C1(CCCCC1)COC1=C(C=CC=C1)/C=C/C1CCN(CC1)CC=1C(=NC=CN1)OC | C26H35N3O2
